US08629160B2
2-Bromo-1-(4-hydroxyphenyl)ethanone (54.8 mg, 0.25 mmol) was added portionwise to a solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (C19) (100 mg, 0.25 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight. The precipitate was filtered and washed with ethylacetate and then it was triturated with CH3CN to obtain (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-1-azoniabicyclo[2.2.2]octane bromide (101 mg, 65.3% yield).

reactant | 2-Bromo-1-(4-hydroxyphenyl)ethanone | 0.25 mmol, 54.8 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.25 mmol, 100 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-1-azoniabicyclo[2.2.2]octane bromide | 101 mg, 65.3% yield | [Br-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(=O)C3=CC=C(C=C3)O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C31H30N2O4S.BrH/c34-24-12-10-21(11-13-24)27(35)18-33-16-14-22(15-17-33)28(19-33)37-31(36)30(32-23-6-2-1-3-7-23)26-20-38-29-9-5-4-8-25(26)29;/h1-13,20,22,28,30,32H,14-19H2;1H/t22?,28-,30?,33?;/m0./s1
